### PR TITLE
Prove OperationPtr.setAttributes_WellFormed for sorry in parseOptionalOp

### PR DESCRIPTION
**Pull request by GZGavinZhao**
Proves `OperationPtr.setAttributes_WellFormed` to remove the last `sorry` in the parser. This finally makes our parser `sorry`-less!

```
> lake build Veir.Parser.MlirParser
ℹ [67/67] Built Veir.Parser.MlirParser
info: Veir/Parser/MlirParser.lean:485:0: 'Veir.Parser.parseOp' depends on axioms: [propext, Classical.choice, Quot.sound]
```
(`parseOp` is the entrypoint to the parser used by `VeirOpt` and `VeirInterpret`)

### CODE REVIEW

File: Veir/Rewriter/WellFormed/Operation.lean [hunk 1]
```diff
@@ -198,6 +198,46 @@ theorem Rewriter.detachOpIfAttached_WellFormed (ctx : IRContext OpInfo) (wf : ct
 
 end detachOpIfAttached
 
+section setAttributes
+
+theorem OperationPtr.setAttributes_WellFormed (ctx : IRContext OpInfo) (op : OperationPtr)
```
Comment (GZGavinZhao) [inline Veir/Rewriter/WellFormed/Operation.lean:203]: Open to moving this theorem to another file or renaming it.

File: Veir/Rewriter/WellFormed/Operation.lean [hunk 2]
```diff
@@ -198,6 +198,46 @@ theorem Rewriter.detachOpIfAttached_WellFormed (ctx : IRContext OpInfo) (wf : ct
...
+    exact ⟨array, by simpa using h_def⟩
+  · intro blk hblk
+    have ⟨array, harray⟩ := h₃ blk (by grind)
+    have h_def : blk.DefUse (op.setAttributes ctx newAttrs hop) array
+      (Std.ExtHashSet.filter (fun use => decide ((use.get! ctx).value = blk)) ∅) := by
+      apply BlockPtr.DefUse.unchanged harray (ctx' := op.setAttributes ctx newAttrs hop) <;> grind
+    exact ⟨array, by simpa using h_def⟩
+  · intro blk hblk
+    have ⟨array, harray⟩ := h₄ blk (by grind)
+    refine ⟨array, ?_⟩
```
Comment (math-fehr) [inline Veir/Rewriter/WellFormed/Operation.lean]: Is there a reason you use `refine` instead of the `exists` tactic? I feel the `exists` tactic is easier to understand in general.

File: Veir/Rewriter/WellFormed/Operation.lean [hunk 3]
```diff
@@ -198,6 +198,46 @@ theorem Rewriter.detachOpIfAttached_WellFormed (ctx : IRContext OpInfo) (wf : ct
...
+    have h_def : val.DefUse (op.setAttributes ctx newAttrs hop) array
+      (Std.ExtHashSet.filter (fun use => decide ((use.get! ctx).value = val)) ∅) := by
+      apply ValuePtr.DefUse.unchanged harray (ctx' := op.setAttributes ctx newAttrs hop) <;> grind
+    exact ⟨array, by simpa using h_def⟩
+  · intro blk hblk
+    have ⟨array, harray⟩ := h₃ blk (by grind)
+    have h_def : blk.DefUse (op.setAttributes ctx newAttrs hop) array
+      (Std.ExtHashSet.filter (fun use => decide ((use.get! ctx).value = blk)) ∅) := by
+      apply BlockPtr.DefUse.unchanged harray (ctx' := op.setAttributes ctx newAttrs hop) <;> grind
+    exact ⟨array, by simpa using h_def⟩
```
Comment (math-fehr) [inline Veir/Rewriter/WellFormed/Operation.lean]: I feel that having a proof like this would be a bit simpler to understand?
```
    exists array
    simp only [Std.ExtHashSet.filter_empty] at harray ⊢
    apply BlockPtr.DefUse.unchanged harray <;> grind
```
And the same for above?

**Review by math-fehr — APPROVED** [review]
I just had two nits on the proofs, but otherwise this looks good to me, nice!

File: Veir/Rewriter/WellFormed/Operation.lean (hunk 3 above)
Comment (GZGavinZhao) [reply Veir/Rewriter/WellFormed/Operation.lean]: Fixed. This part was written by DeepSeek.

File: Veir/Rewriter/WellFormed/Operation.lean (hunk 2 above)
Comment (GZGavinZhao) [reply Veir/Rewriter/WellFormed/Operation.lean]: Blaming @dtumad for teaching me how to use `refine` last summer. Thanks for the note on `exists`, I always forget it exists.

**Review by math-fehr — APPROVED** [review]
Nice, thanks!
